US05955632
A solution of 9.1 g of 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde (Boutagy J. and Thomas R., Aust. J. Chem., 1971, 24, 2723), and p-toluensulphonyl hydrazide (5.6 g) in AcOH (60 mL) was stirred at room temp. for 3 hrs and then poured in a saturated aqueous solution of di-sodium hydrogen phosphate. The mixture was extracted with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was dissolved in MeOH (200 mL) and zinc iodide (1.2 g) was added. To this solution sodium cyanoborohydride (2.6 g) was added portionwise and the temperature was raised to the boiling point of the reaction mixture. After 3 hrs the solvent was evaporated to dryness under reduced pressure, the crude product was dissolved in ethyl acetate and neutralised with 0.1 N NaOH, the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by chromatography (SiO2) using n-hexane/ethyl ether 75/25 as eluant to give 5.7 g of 3β-acetoxy-14β-hydroxy-17β-methyl-5β-androstane (VIII-a) as a white solid.

reactant | 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde | 9.1 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O)O | C20H32O3
reactant | di-sodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | AcOH | 60 mL | CC(=O)O | C2H4O2
product | 3β-acetoxy-14β-hydroxy-17β-methyl-5β-androstane | 5.7 g | C(C)(=O)O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C)O | C22H36O3
